US08067447B2
(E)-Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoate (52 mg, 0.123 mmol) was dissolved in MeOH (5 mL) and DMSO (5 mL) and treated with 1 M NaOH (5 mL) at 100° C. After stirring overnight, the MeOH was removed in vacuo, the residue acidified with sat KH2PO4 to pH 4-5 and extracted with EtOAc×3. The organic layer was dried with MgSO4, filtered, concentrated in vacuo to give 3-(benzyloxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylpropanoic acid.

reactant | (E)-Methyl 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2,5-trimethylhex-3-enoate | 0.123 mmol, 52 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)/C(/C(C(=O)OC)(C)C)=C\C(C)C | C23H25FN2O2
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
reactant | NaOH | 1 M, 5 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(benzyloxy)-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylpropanoic acid | C(C1=CC=CC=C1)OC(C(C(=O)O)(C)C)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F | C25H23FN2O3
